US04935430
(d) Ethyl 2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-oylacetate
Ethyl potassium malonate (57 mg) was suspended in dry tetrahydrofuran (1 ml) and 2M isopropyl magnesium chloride in THF (170 μl) added. The suspension was sonicated for 1/2 hour giving a homogenous solution. This was added with stirring to the suspension of 6-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-3-oyl chloride in dichloromethane. The mixture was stirred at room temperature for 1/2 hour. It was then poured into 1N hydrochloric acid, stirred for 15 minutes and adjusted to pH8 with saturated sodium bicarbonate. The aqueous phase was extracted with dichloromethane (2×10 ml), the extracts combined, dried over magnesium sulphate and the solvent removed under reduced pressure yielding the title compound as a pale red oil (40 mg, 63%) [as a 1:1 mixture of enol and keto tautomers].

reactant | Ethyl potassium malonate | 57 mg | C(CC(=O)O)(=O)O.C(C)[K]
reactant | isopropyl magnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | 6-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-3-oyl chloride | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(C=N1)C(=O)Cl | C13H9ClN4O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | THF | 170 μl | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-oylacetate | 40 mg, 63% | CC=1N(C2=C(C=NC=C2)N1)C1=NC=C(C=C1)C(=O)CC(=O)OCC | C17H16N4O3
